US04303655
Ethyl 2-(2-formylamino-5-chloro-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-formylimino-5-chloro-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate, (1.3 g.) was dissolved in 1 N potassium hydroxide aqueous solution (10 ml.) at room temperature with stirring and the solution was stirred for 5 minutes at the same temperature. After the reaction, the reaction mixture was cooled with ice and then adjusted to pH 1 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and then dried to give 2-(2-formylamino-5-chloro-1,3-thiazol-4-yl)glyoxylic acid (0.91 g.), which can be represented as 2-(2-formylimino-5-chloro-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid, mp. 148° to 152° C. (dec.). The remaining filtrate and washing were combined together and then extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and then the solvent was distilled off to give further the same object compound (0.23 g.).

reactant | Ethyl 2-(2-formylamino-5-chloro-1,3-thiazol-4-yl)glyoxylate | C(=O)NC=1SC(=C(N1)C(C(=O)OCC)=O)Cl | C8H7ClN2O4S
reactant | ethyl 2-(2-formylimino-5-chloro-2,3-dihydro-1,3-thiazol-4-yl)glyoxylate | C(=O)N=C1SC(=C(N1)C(C(=O)OCC)=O)Cl | C8H7ClN2O4S
reactant | hydrochloric acid | Cl | ClH
solvent | potassium hydroxide | 1 N, 10 ml | [OH-].[K+]
product | 2-(2-formylamino-5-chloro-1,3-thiazol-4-yl)glyoxylic acid | 0.91 g | C(=O)NC=1SC(=C(N1)C(C(=O)O)=O)Cl | C6H3ClN2O4S
